* ==========================================================================
* comparators_all.lib  -  AutoHV BiCMOS 180  (single consolidated library)
* --------------------------------------------------------------------------
* AUTO-GENERATED by gen_comparators_all.py from the per-cell libraries in
* this directory. Every comparator subckt is collected here under a
* RAIL-SUFFIXED name so they coexist in one file. Bodies are verbatim copies
* (electrically identical) -- edit the per-folder libs and regenerate; do not
* hand-edit this file.
*
* Use:  .include the PDK models, the async-logic cell lib, AND this file:
*   .include "<...>/autohv_bicmos180_case.lib"
*   .include "<...>/circuits/async_logic_design/cells.lib"   (EN-buffer INV cells)
*   .include "comparators_all.lib"
*   X1 inp inn out vdd 0 ibp_5uA vdd CMP_RR_5V0 IREF=5u FIN=1   (last net EN, high=enabled)
*   Ib vdd ibp_5uA 5u
*
* Ports (all cells):  inp inn out vdd vss <bias> EN   (vdd/vss only).
* Enable: EN active-high. EN=0 -> bias shut down by small switches (zero static Iq);
*   core stays on true rails; OUT clamped to a rail (CMP_NIN low; CMP_PIN/CMP_RR high).
* Bias pin encodes expected current+sense: ibp_5uA = source 5 uA IN (CMP_NIN,
*   CMP_RR; diode-tied NMOS, from vdd); ibn_5uA = sink 5 uA OUT (CMP_PIN;
*   diode-tied PMOS, to vss). Drive that pin with a matching current source.
* Polarity        :  OUT high when V(inp) > V(inn).
* Naming          :  CMP_<type>_<rail>  -  type NIN/PIN (general-purpose,
*                    NMOS-/PMOS-input) or RR (rail-to-rail input);
*                    rail 5V0 / 3V3 / 1V8.
* Knobs/specs/sign-off: README.md, general_purpose/DESIGN_NOTES.md, folder READMEs.
*
* Contents (9 subckts):
*   CMP_NIN_5V0
*   CMP_PIN_5V0
*   CMP_NIN_3V3
*   CMP_PIN_3V3
*   CMP_NIN_1V8
*   CMP_PIN_1V8
*   CMP_RR_5V0
*   CMP_RR_3V3
*   CMP_RR_1V8
* ==========================================================================


* ==========================================================================
* GENERAL-PURPOSE  (two-stage; NMOS-input = high CM / PMOS-input = low CM)
* ==========================================================================

.subckt CMP_NIN_5V0 inp inn out vdd vss ibp_5uA EN params: IREF=5u WSCALE=1 WIN=40u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror ---
Xmb   ibg  ibg  vss vss NMOS5V0 W={10u*WSCALE} L={LANA} M=1   ; diode ref (carries IREF)
* --- stage 1: NMOS pair, PMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibg vss vss NMOS5V0 W={10u*WSCALE} L={LANA} M=2   ; Itail = 2*IREF
Xm1   n1  inp tail vss NMOS5V0 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vss NMOS5V0 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vdd vdd  PMOS5V0 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vdd vdd  PMOS5V0 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibg vss vss NMOS5V0 W={10u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vss NMOS5V0 W={10u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vss NMOS5V0 W={10u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: PMOS common-source + NMOS current-source load ---
Xm5   o2  n2  vdd vdd  PMOS5V0 W={80u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibg  vss vss  NMOS5V0 W={10u*WSCALE} L={LANA} M=4  ; sink 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS5V0 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS5V0 W={10u*WSCALE} L=0.5u M=1
* --- enable / bias-shutdown disable (small switches; core on true rails) ---
Xei1  EN    ENB   vdd vss INV_5V0                          ; ENB   = /EN  (PDK cell)
Xei2  ENB   ENbuf vdd vss INV_5V0                          ; ENbuf = EN   (PDK cell)
Xser  ibp_5uA ENbuf ibg vss NMOS5V0 W=4u L=0.5u M=1          ; series: bias pin -> mirror gate (EN=1)
Xsh   ibg ENB   vss     vss NMOS5V0 W=4u L=0.5u M=1          ; gate-short: ibg -> vss (EN=0)
Xsho2 o2  ENbuf vdd     vdd PMOS5V0 W=4u L=0.5u M=1          ; clamp o2 -> vdd (OUT low when EN=0)
.ends CMP_NIN_5V0

.subckt CMP_PIN_5V0 inp inn out vdd vss ibn_5uA EN params: IREF=5u WSCALE=1 WIN=80u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror (PMOS diode; ref current pulled from ibn_5uA down toward vss) ---
Xmb   ibg  ibg  vdd vdd  PMOS5V0 W={20u*WSCALE} L={LANA} M=1  ; diode ref (carries IREF)
* --- stage 1: PMOS pair, NMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibg vdd vdd  PMOS5V0 W={20u*WSCALE} L={LANA} M=2  ; Itail = 2*IREF
Xm1   n1  inp tail vdd PMOS5V0 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vdd PMOS5V0 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vss vss  NMOS5V0 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vss vss  NMOS5V0 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibg vdd vdd PMOS5V0 W={20u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vdd PMOS5V0 W={20u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vdd PMOS5V0 W={20u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: NMOS common-source + PMOS current-source load ---
Xm5   o2  n2  vss vss  NMOS5V0 W={40u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibg  vdd vdd  PMOS5V0 W={20u*WSCALE} L={LANA} M=4  ; source 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS5V0 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS5V0 W={10u*WSCALE} L=0.5u M=1
* --- enable / bias-shutdown disable (small switches; core on true rails) ---
Xei1  EN    ENB   vdd vss INV_5V0                          ; ENB   = /EN  (PDK cell)
Xei2  ENB   ENbuf vdd vss INV_5V0                          ; ENbuf = EN   (PDK cell)
Xser  ibn_5uA ENB   ibg vdd PMOS5V0 W=4u L=0.5u M=1          ; series: bias pin -> mirror gate (EN=1)
Xsh   ibg ENbuf vdd     vdd PMOS5V0 W=4u L=0.5u M=1          ; gate-short: ibg -> vdd (EN=0)
Xsho2 o2  ENB   vss     vss NMOS5V0 W=4u L=0.5u M=1          ; clamp o2 -> vss (OUT high when EN=0)
.ends CMP_PIN_5V0

.subckt CMP_NIN_3V3 inp inn out vdd vss ibp_5uA EN params: IREF=5u WSCALE=1 WIN=40u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror ---
Xmb   ibg  ibg  vss vss NMOS3V3 W={10u*WSCALE} L={LANA} M=1   ; diode ref (carries IREF)
* --- stage 1: NMOS pair, PMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibg vss vss NMOS3V3 W={10u*WSCALE} L={LANA} M=2   ; Itail = 2*IREF
Xm1   n1  inp tail vss NMOS3V3 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vss NMOS3V3 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vdd vdd  PMOS3V3 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vdd vdd  PMOS3V3 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibg vss vss NMOS3V3 W={10u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vss NMOS3V3 W={10u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vss NMOS3V3 W={10u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: PMOS common-source + NMOS current-source load ---
Xm5   o2  n2  vdd vdd  PMOS3V3 W={80u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibg  vss vss  NMOS3V3 W={10u*WSCALE} L={LANA} M=4  ; sink 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS3V3 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS3V3 W={10u*WSCALE} L=0.5u M=1
* --- enable / bias-shutdown disable (small switches; core on true rails) ---
Xei1  EN    ENB   vdd vss INV_3V3                          ; ENB   = /EN  (PDK cell)
Xei2  ENB   ENbuf vdd vss INV_3V3                          ; ENbuf = EN   (PDK cell)
Xser  ibp_5uA ENbuf ibg vss NMOS3V3 W=4u L=0.5u M=1          ; series: bias pin -> mirror gate (EN=1)
Xsh   ibg ENB   vss     vss NMOS3V3 W=4u L=0.5u M=1          ; gate-short: ibg -> vss (EN=0)
Xsho2 o2  ENbuf vdd     vdd PMOS3V3 W=4u L=0.5u M=1          ; clamp o2 -> vdd (OUT low when EN=0)
.ends CMP_NIN_3V3

.subckt CMP_PIN_3V3 inp inn out vdd vss ibn_5uA EN params: IREF=5u WSCALE=1 WIN=80u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror (PMOS diode; ref current pulled from ibn_5uA down toward vss) ---
Xmb   ibg  ibg  vdd vdd  PMOS3V3 W={20u*WSCALE} L={LANA} M=1  ; diode ref (carries IREF)
* --- stage 1: PMOS pair, NMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibg vdd vdd  PMOS3V3 W={20u*WSCALE} L={LANA} M=2  ; Itail = 2*IREF
Xm1   n1  inp tail vdd PMOS3V3 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vdd PMOS3V3 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vss vss  NMOS3V3 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vss vss  NMOS3V3 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibg vdd vdd PMOS3V3 W={20u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vdd PMOS3V3 W={20u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vdd PMOS3V3 W={20u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: NMOS common-source + PMOS current-source load ---
Xm5   o2  n2  vss vss  NMOS3V3 W={40u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibg  vdd vdd  PMOS3V3 W={20u*WSCALE} L={LANA} M=4  ; source 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS3V3 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS3V3 W={10u*WSCALE} L=0.5u M=1
* --- enable / bias-shutdown disable (small switches; core on true rails) ---
Xei1  EN    ENB   vdd vss INV_3V3                          ; ENB   = /EN  (PDK cell)
Xei2  ENB   ENbuf vdd vss INV_3V3                          ; ENbuf = EN   (PDK cell)
Xser  ibn_5uA ENB   ibg vdd PMOS3V3 W=4u L=0.5u M=1          ; series: bias pin -> mirror gate (EN=1)
Xsh   ibg ENbuf vdd     vdd PMOS3V3 W=4u L=0.5u M=1          ; gate-short: ibg -> vdd (EN=0)
Xsho2 o2  ENB   vss     vss NMOS3V3 W=4u L=0.5u M=1          ; clamp o2 -> vss (OUT high when EN=0)
.ends CMP_PIN_3V3

.subckt CMP_NIN_1V8 inp inn out vdd vss ibp_5uA EN params: IREF=5u WSCALE=1 WIN=40u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror ---
Xmb   ibg  ibg  vss vss NMOS1V8 W={10u*WSCALE} L={LANA} M=1   ; diode ref (carries IREF)
* --- stage 1: NMOS pair, PMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibg vss vss NMOS1V8 W={10u*WSCALE} L={LANA} M=2   ; Itail = 2*IREF
Xm1   n1  inp tail vss NMOS1V8 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vss NMOS1V8 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vdd vdd  PMOS1V8 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vdd vdd  PMOS1V8 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibg vss vss NMOS1V8 W={10u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vss NMOS1V8 W={10u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vss NMOS1V8 W={10u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: PMOS common-source + NMOS current-source load ---
Xm5   o2  n2  vdd vdd  PMOS1V8 W={80u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibg  vss vss  NMOS1V8 W={10u*WSCALE} L={LANA} M=4  ; sink 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS1V8 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS1V8 W={10u*WSCALE} L=0.5u M=1
* --- enable / bias-shutdown disable (small switches; core on true rails) ---
Xei1  EN    ENB   vdd vss INV_1V8                          ; ENB   = /EN  (PDK cell)
Xei2  ENB   ENbuf vdd vss INV_1V8                          ; ENbuf = EN   (PDK cell)
Xser  ibp_5uA ENbuf ibg vss NMOS1V8 W=4u L=0.5u M=1          ; series: bias pin -> mirror gate (EN=1)
Xsh   ibg ENB   vss     vss NMOS1V8 W=4u L=0.5u M=1          ; gate-short: ibg -> vss (EN=0)
Xsho2 o2  ENbuf vdd     vdd PMOS1V8 W=4u L=0.5u M=1          ; clamp o2 -> vdd (OUT low when EN=0)
.ends CMP_NIN_1V8

.subckt CMP_PIN_1V8 inp inn out vdd vss ibn_5uA EN params: IREF=5u WSCALE=1 WIN=80u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror (PMOS diode; ref current pulled from ibn_5uA down toward vss) ---
Xmb   ibg  ibg  vdd vdd  PMOS1V8 W={20u*WSCALE} L={LANA} M=1  ; diode ref (carries IREF)
* --- stage 1: PMOS pair, NMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibg vdd vdd  PMOS1V8 W={20u*WSCALE} L={LANA} M=2  ; Itail = 2*IREF
Xm1   n1  inp tail vdd PMOS1V8 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vdd PMOS1V8 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vss vss  NMOS1V8 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vss vss  NMOS1V8 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibg vdd vdd PMOS1V8 W={20u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vdd PMOS1V8 W={20u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vdd PMOS1V8 W={20u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: NMOS common-source + PMOS current-source load ---
Xm5   o2  n2  vss vss  NMOS1V8 W={40u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibg  vdd vdd  PMOS1V8 W={20u*WSCALE} L={LANA} M=4  ; source 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS1V8 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS1V8 W={10u*WSCALE} L=0.5u M=1
* --- enable / bias-shutdown disable (small switches; core on true rails) ---
Xei1  EN    ENB   vdd vss INV_1V8                          ; ENB   = /EN  (PDK cell)
Xei2  ENB   ENbuf vdd vss INV_1V8                          ; ENbuf = EN   (PDK cell)
Xser  ibn_5uA ENB   ibg vdd PMOS1V8 W=4u L=0.5u M=1          ; series: bias pin -> mirror gate (EN=1)
Xsh   ibg ENbuf vdd     vdd PMOS1V8 W=4u L=0.5u M=1          ; gate-short: ibg -> vdd (EN=0)
Xsho2 o2  ENB   vss     vss NMOS1V8 W=4u L=0.5u M=1          ; clamp o2 -> vss (OUT high when EN=0)
.ends CMP_PIN_1V8


* ==========================================================================
* RAIL-TO-RAIL INPUT  (complementary pairs summed in a folded cascode)
* ==========================================================================

.subckt CMP_RR_5V0 inp inn out vdd vss ibp_5uA EN params: IREF=5u FIN=1
* --- bias generation ---
Xrbn  ibg_n  ibg_n  vss vss NMOS5V0 W=10u L=1u M=1            ; NMOS diode ref (carries IREF)
Xmir  pmd ibg_n  vss vss NMOS5V0 W=10u L=1u M=1            ; mirror IREF up
Xrbp  pmd pmd vdd vdd PMOS5V0 W=20u L=1u M=1            ; PMOS diode -> vbp = pmd
Xvc1  k   k   vdd vdd PMOS5V0 W=20u L=1u M=1            ; vcp = VDD - 2*|Vsg| (VDD-referenced
Xvc2  vcp vcp k   vdd PMOS5V0 W=20u L=1u M=1            ;   cascode bias: x tracks the rail so
Xisk  vcp ibg_n  vss vss NMOS5V0 W=10u L=1u M=1            ;   the fold sources keep Vds at brownout)
* --- rail-to-rail folded-cascode input stage ---
Xmtn  sn  ibg_n  vss vss NMOS5V0 W=20u L=1u M=1            ; NMOS pair tail (~2*IREF)
Xn1   x   inp sn  vss NMOS5V0 W={40u*FIN} L={1u*FIN} M=1
Xn2   y   inn sn  vss NMOS5V0 W={40u*FIN} L={1u*FIN} M=1
Xmtp  sp  pmd vdd vdd PMOS5V0 W=40u L=1u M=1            ; PMOS pair tail (~2*IREF)
Xp1   a   inp sp  vdd PMOS5V0 W={80u*FIN} L={1u*FIN} M=1
Xp2   b   inn sp  vdd PMOS5V0 W={80u*FIN} L={1u*FIN} M=1
Xf1   x   pmd vdd vdd PMOS5V0 W=60u L=1u M=1            ; top fold sources
Xf2   y   pmd vdd vdd PMOS5V0 W=60u L=1u M=1
Xcp1  a   vcp x   vdd PMOS5V0 W=40u L=1u M=1            ; PMOS cascodes x->a, y->b
Xcp2  b   vcp y   vdd PMOS5V0 W=40u L=1u M=1
Xmm1  a   a   vss vss NMOS5V0 W={20u*FIN} L={1u*FIN} M=1 ; bottom mirror diode (a)
Xmm2  b   a   vss vss NMOS5V0 W={20u*FIN} L={1u*FIN} M=1 ; mirror out -> stage-1 out = b
* --- stage 2: common-source gain + current-source load ---
Xs2n  o2  b   vss vss NMOS5V0 W=40u L=1u M=1
Xs2p  o2  pmd vdd vdd PMOS5V0 W=40u L=1u M=1
* --- stage 3: CMOS inverter (rail-to-rail digital out) ---
Xbp   out o2  vdd vdd PMOS5V0 W=20u L=0.5u M=1
Xbn   out o2  vss vss NMOS5V0 W=10u L=0.5u M=1
* --- enable / bias-shutdown disable (small switches; core on true rails) ---
Xei1  EN    ENB   vdd vss INV_5V0                          ; ENB   = /EN  (PDK cell)
Xei2  ENB   ENbuf vdd vss INV_5V0                          ; ENbuf = EN   (PDK cell)
Xser  ibp_5uA ENbuf ibg_n vss NMOS5V0 W=4u L=0.5u M=1        ; series: bias pin -> NMOS mirror gate
Xshn  ibg_n ENB   vss     vss NMOS5V0 W=4u L=0.5u M=1        ; gate-short: ibg_n -> vss (EN=0)
Xshp  pmd   ENbuf vdd     vdd PMOS5V0 W=4u L=0.5u M=1        ; gate-short: pmd -> vdd (PMOS side off)
Xsho2 o2    ENB   vss     vss NMOS5V0 W=4u L=0.5u M=1         ; clamp o2 -> vss (OUT high when EN=0)
.ends CMP_RR_5V0

.subckt CMP_RR_3V3 inp inn out vdd vss ibp_5uA EN params: IREF=5u FIN=1
* --- bias generation ---
Xrbn  ibg_n  ibg_n  vss vss NMOS3V3 W=10u L=1u M=1            ; NMOS diode ref (carries IREF)
Xmir  pmd ibg_n  vss vss NMOS3V3 W=10u L=1u M=1            ; mirror IREF up
Xrbp  pmd pmd vdd vdd PMOS3V3 W=20u L=1u M=1            ; PMOS diode -> vbp = pmd
Xvc1  k   k   vdd vdd PMOS3V3 W=20u L=1u M=1            ; vcp = VDD - 2*|Vsg| (VDD-referenced
Xvc2  vcp vcp k   vdd PMOS3V3 W=20u L=1u M=1            ;   cascode bias: x tracks the rail so
Xisk  vcp ibg_n  vss vss NMOS3V3 W=10u L=1u M=1            ;   the fold sources keep Vds at brownout)
* --- rail-to-rail folded-cascode input stage ---
Xmtn  sn  ibg_n  vss vss NMOS3V3 W=20u L=1u M=1            ; NMOS pair tail (~2*IREF)
Xn1   x   inp sn  vss NMOS3V3 W={40u*FIN} L={1u*FIN} M=1
Xn2   y   inn sn  vss NMOS3V3 W={40u*FIN} L={1u*FIN} M=1
Xmtp  sp  pmd vdd vdd PMOS3V3 W=40u L=1u M=1            ; PMOS pair tail (~2*IREF)
Xp1   a   inp sp  vdd PMOS3V3 W={80u*FIN} L={1u*FIN} M=1
Xp2   b   inn sp  vdd PMOS3V3 W={80u*FIN} L={1u*FIN} M=1
Xf1   x   pmd vdd vdd PMOS3V3 W=60u L=1u M=1            ; top fold sources
Xf2   y   pmd vdd vdd PMOS3V3 W=60u L=1u M=1
Xcp1  a   vcp x   vdd PMOS3V3 W=40u L=1u M=1            ; PMOS cascodes x->a, y->b
Xcp2  b   vcp y   vdd PMOS3V3 W=40u L=1u M=1
Xmm1  a   a   vss vss NMOS3V3 W={20u*FIN} L={1u*FIN} M=1 ; bottom mirror diode (a)
Xmm2  b   a   vss vss NMOS3V3 W={20u*FIN} L={1u*FIN} M=1 ; mirror out -> stage-1 out = b
* --- stage 2: common-source gain + current-source load ---
Xs2n  o2  b   vss vss NMOS3V3 W=40u L=1u M=1
Xs2p  o2  pmd vdd vdd PMOS3V3 W=40u L=1u M=1
* --- stage 3: CMOS inverter (rail-to-rail digital out) ---
Xbp   out o2  vdd vdd PMOS3V3 W=20u L=0.5u M=1
Xbn   out o2  vss vss NMOS3V3 W=10u L=0.5u M=1
* --- enable / bias-shutdown disable (small switches; core on true rails) ---
Xei1  EN    ENB   vdd vss INV_3V3                          ; ENB   = /EN  (PDK cell)
Xei2  ENB   ENbuf vdd vss INV_3V3                          ; ENbuf = EN   (PDK cell)
Xser  ibp_5uA ENbuf ibg_n vss NMOS3V3 W=4u L=0.5u M=1        ; series: bias pin -> NMOS mirror gate
Xshn  ibg_n ENB   vss     vss NMOS3V3 W=4u L=0.5u M=1        ; gate-short: ibg_n -> vss (EN=0)
Xshp  pmd   ENbuf vdd     vdd PMOS3V3 W=4u L=0.5u M=1        ; gate-short: pmd -> vdd (PMOS side off)
Xsho2 o2    ENB   vss     vss NMOS3V3 W=4u L=0.5u M=1         ; clamp o2 -> vss (OUT high when EN=0)
.ends CMP_RR_3V3

.subckt CMP_RR_1V8 inp inn out vdd vss ibp_5uA EN params: IREF=5u FIN=1
* --- bias generation ---
Xrbn  ibg_n  ibg_n  vss vss NMOS1V8 W=10u L=1u M=1            ; NMOS diode ref (carries IREF)
Xmir  pmd ibg_n  vss vss NMOS1V8 W=10u L=1u M=1            ; mirror IREF up
Xrbp  pmd pmd vdd vdd PMOS1V8 W=20u L=1u M=1            ; PMOS diode -> vbp = pmd
Xvc1  k   k   vdd vdd PMOS1V8 W=20u L=1u M=1            ; vcp = VDD - 2*|Vsg| (VDD-referenced
Xvc2  vcp vcp k   vdd PMOS1V8 W=20u L=1u M=1            ;   cascode bias: x tracks the rail so
Xisk  vcp ibg_n  vss vss NMOS1V8 W=10u L=1u M=1            ;   the fold sources keep Vds at brownout)
* --- rail-to-rail folded-cascode input stage ---
Xmtn  sn  ibg_n  vss vss NMOS1V8 W=20u L=1u M=1            ; NMOS pair tail (~2*IREF)
Xn1   x   inp sn  vss NMOS1V8 W={40u*FIN} L={1u*FIN} M=1
Xn2   y   inn sn  vss NMOS1V8 W={40u*FIN} L={1u*FIN} M=1
Xmtp  sp  pmd vdd vdd PMOS1V8 W=40u L=1u M=1            ; PMOS pair tail (~2*IREF)
Xp1   a   inp sp  vdd PMOS1V8 W={80u*FIN} L={1u*FIN} M=1
Xp2   b   inn sp  vdd PMOS1V8 W={80u*FIN} L={1u*FIN} M=1
Xf1   x   pmd vdd vdd PMOS1V8 W=60u L=1u M=1            ; top fold sources
Xf2   y   pmd vdd vdd PMOS1V8 W=60u L=1u M=1
Xcp1  a   vcp x   vdd PMOS1V8 W=40u L=1u M=1            ; PMOS cascodes x->a, y->b
Xcp2  b   vcp y   vdd PMOS1V8 W=40u L=1u M=1
Xmm1  a   a   vss vss NMOS1V8 W={20u*FIN} L={1u*FIN} M=1 ; bottom mirror diode (a)
Xmm2  b   a   vss vss NMOS1V8 W={20u*FIN} L={1u*FIN} M=1 ; mirror out -> stage-1 out = b
* --- stage 2: common-source gain + current-source load ---
Xs2n  o2  b   vss vss NMOS1V8 W=40u L=1u M=1
Xs2p  o2  pmd vdd vdd PMOS1V8 W=40u L=1u M=1
* --- stage 3: CMOS inverter (rail-to-rail digital out) ---
Xbp   out o2  vdd vdd PMOS1V8 W=20u L=0.5u M=1
Xbn   out o2  vss vss NMOS1V8 W=10u L=0.5u M=1
* --- enable / bias-shutdown disable (small switches; core on true rails) ---
Xei1  EN    ENB   vdd vss INV_1V8                          ; ENB   = /EN  (PDK cell)
Xei2  ENB   ENbuf vdd vss INV_1V8                          ; ENbuf = EN   (PDK cell)
Xser  ibp_5uA ENbuf ibg_n vss NMOS1V8 W=4u L=0.5u M=1        ; series: bias pin -> NMOS mirror gate
Xshn  ibg_n ENB   vss     vss NMOS1V8 W=4u L=0.5u M=1        ; gate-short: ibg_n -> vss (EN=0)
Xshp  pmd   ENbuf vdd     vdd PMOS1V8 W=4u L=0.5u M=1        ; gate-short: pmd -> vdd (PMOS side off)
Xsho2 o2    ENB   vss     vss NMOS1V8 W=4u L=0.5u M=1         ; clamp o2 -> vss (OUT high when EN=0)
.ends CMP_RR_1V8
