* P2.1 stress: NPN_LV DC sweep Vce from 0 to BVCBO+20%, Ib forced.
* BVCBO(NPN_LV) = 14 V at TT. Sweep to 17 V to stress the avalanche
* clamp and the (V/BVCBO)**4 power expression.
.include "../../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=0
.param MM_ON=0

Vcc cc 0 1
Ib  0 b 10u
Ve  e 0 0
XQ  cc b e NPN_LV AREA=1

.control
dc Vcc 0 17 0.05
echo NPN_LV_DC_OK
wrdata bjt_dc.data v(cc) i(Vcc)
quit
.endc
.end
